US06624179B1
Preparation of α-(4-Chlorophenyl)-β-hydroxy-β-(2-trifluoromethylphenyl)acrylonitrile
5.8 g of 4-chlorobenzyl cyanide, 10 g of ethyl 2-trifluoromethylbenzoate and 2.9 g of sodium ethylate were added to 100 ml of toluene and then reacted for 8 hours under reflux. The reaction mixture was returned to room temperature and extracted by an addition of 200 ml of water. The aqueous phase was adjusted to pH 6 to 7 with 6N hydrochloric acid and then extracted by an addition of 400 ml of methylene chloride. The organic layer was washed with water and a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 6.3 g of the desired product. The NMR spectrum data of this product were the same as in Reference Preparation Example 3.

reactant | 4-chlorobenzyl cyanide | 5.8 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | ethyl 2-trifluoromethylbenzoate | 10 g | FC(C1=C(C(=O)OCC)C=CC=C1)(F)F | C10H9F3O2
reactant | sodium ethylate | 2.9 g | CC[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | α-(4-Chlorophenyl)-β-hydroxy-β-(2-trifluoromethylphenyl)acrylonitrile | 6.3 g | ClC1=CC=C(C=C1)C(C#N)=C(C1=C(C=CC=C1)C(F)(F)F)O | C16H9ClF3NO
